US04808605
5.9 g (135 mmol) of a 55% sodium hydride dispersion in mineral oil are washed oil-free with hexane and subsequently covered with 100 ml of dimethylformamide. To this suspension are added dropwise at room temperature 22.3 g (128 mmol) of 1-(1-methylvinyl)benzimidazolin-2-one in 100 ml of dimethylformamide. After stirring at room temperature for 2 hours 55.0 g of tert.-butyl [6-[(methylsulphonyl)oxy]hexyl]carbamate in 100 ml of dimethylformamide are added dropwise and the reaction mixture is stirred at room temperature for 18 hours. Thereafter. the reaction mixture is poured into 1 l of water and extracted with 750 ml of methylene chloride. The organic extract is washed with water, dried over potassium carbonate and evaporated. The thus-obtained residue is chromatographed on 950 g of silica gel with methylene chloride/hexane, methylene chloride and a 95:5 mixture of methylene chloride and isopropanol as the elution agent, whereby there are obtained 45.3 g of tert.-butyl [6-[3-(1-methylvinyl)-2-oxo-1-benzimidazolinyl]hexyl]carbamate as an oil.

reactant | 1-(1-methylvinyl)benzimidazolin-2-one | 128 mmol, 22.3 g | CC(=C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | tert.-butyl [6-[(methylsulphonyl)oxy]hexyl]carbamate | 55.0 g | CS(=O)(=O)OCCCCCCNC(OC(C)(C)C)=O | C12H25NO5S
reactant | water | 1 l | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | tert.-butyl [6-[3-(1-methylvinyl)-2-oxo-1-benzimidazolinyl]hexyl]carbamate | 45.3 g | CC(=C)N1C(N(C2=C1C=CC=C2)CCCCCCNC(OC(C)(C)C)=O)=O | C21H31N3O3
